US07008940B1
4-Methoxy-2,3-dimethylaniline
4-Methoxy-2,3-dimethylnitrobenzene (21.1 g, 0.15 mol) was dissolved in ethanol (300 mL), and 10% palladium carbon (50% hydrate, 1.36 g) was added. The mixture was reacted at 40° C. for 2 hours under the hydrogen atmosphere. After cooling, the catalyst was removed, ethanol was distilled off under reduced pressure, and the residue was diluted with ethyl acetate. The dilution was washed with 5% sodium hydrosulfite, dried over sodium sulfate, and purified by small amount silica gel column chromatography (ethyl acetate, 1:1). The solvent was distilled off under reduced pressure, followed by recrystallization from hexane, to obtain 15.8 g of the title compound.

reactant | 4-Methoxy-2,3-dimethylnitrobenzene | 0.15 mol, 21.1 g | COC1=C(C(=C(C=C1)[N+](=O)[O-])C)C | C9H11NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium carbon | 1.36 g | [C].[Pd]
product | 4-Methoxy-2,3-dimethylaniline | 15.8 g, Yield 70% | COC1=C(C(=C(N)C=C1)C)C | C9H13NO
